US05276035
1-[2-(bis-(4-fluorophenyl)-methoxy)-ethyl]-4-(3-ketobutyl)piperazine
A mixture of 0.7 g (2.1 mM) of 1-[2-(bis-(4-fluorophenyl) -methoxy)-ethyl]piperazine and 150 mg (2.1 mM) of freshly distilled methylvinyl-ketone was stirred at room temperature for 2 h. 30 ml of ethanol and 0.48 g of maleic acid were added, the precipitated salt was isolated by filtration and recrystallized from hot acetonitrile to yield the dimaleate salt of the title compound as colourless crystals melting at 159°-160° C. Analytical data were in accordance with the proposed structure.

reactant | 1-[2-(bis-(4-fluorophenyl) -methoxy)-ethyl]piperazine | 2.1 mM, 0.7 g | FC1=CC=C(C=C1)C(OCCN1CCNCC1)C1=CC=C(C=C1)F | C19H22F2N2O
reactant | methylvinyl-ketone | CC(=O)C=C | C4H6O
reactant | maleic acid | 0.48 g | C(\C=C/C(=O)O)(=O)O | C4H4O4
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 1-[2-(bis-(4-fluorophenyl)-methoxy)-ethyl]-4-(3-ketobutyl)piperazine | FC1=CC=C(C=C1)C(OCCN1CCN(CC1)CCC(C)=O)C1=CC=C(C=C1)F | C23H28F2N2O2
